US04344946
(c) 2-(Diethylamino-acetylamino)-6-(chloroacetylamino)-benzo[1,2-d:5,4-d']bisthiazole
500 mgm of chloroacetyl chloride were added to a stirred solution of 950 gm of 2-(diethylamino-acetylamino)6-amino-benzo[1,2-d:5,4-d']bisthiazole in 5 ml of dimethylformamide at 0° to 5° C. The mixture was heated for 30 minutes on a waterbath, then cooled, admixed with 50 ml of water and made alkaline with pyridine. The resulting precipitate was collected, washed and recrystallized from dimethylformamide.

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-(diethylamino-acetylamino)6-amino-benzo[1,2-d:5,4-d']bisthiazole | 950 gm | C(C)N(CC)N(C=1SC=2C(N1)=CC=1N=C(SC1C2)N)C(C)=O | C14H17N5OS2
reactant | water | 50 ml | O | H2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(Diethylamino-acetylamino)-6-(chloroacetylamino)-benzo[1,2-d:5,4-d']bisthiazole | C(C)N(CC)N(C=1SC=2C(N1)=CC=1N=C(SC1C2)NC(CCl)=O)C(C)=O | C16H18ClN5O2S2
